US08232300B2
(3) (6,7,8,9-Tetrahydro-5H-5-benzocycloheptenyl)acetaldehyde
Ethyl (6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)acetate (0.550 g) was dissolved in anhydrous toluene (10 ml), and the solution was slowly added with diisobutylaluminum hydride (0.93 M n-hexane solution, 2.8 ml) at −78° C. under an argon flow. The reaction mixture was stirred −78° C. for 1 hour, and then slowly added with methanol (3 ml) and 2 N aqueous hydrochloric acid, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous sodium sulfate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solvent: ethyl acetate:n-hexane=1:300) to obtain the title compound (0.432 g, yield: 97%).

reactant | Ethyl (6,7,8,9-tetrahydro-5H-5-benzocycloheptenyl)acetate | 0.550 g | C1=CC=CC2=C1CCCCC2CC(=O)OCC | C15H20O2
reactant | diisobutylaluminum hydride | 0.93 M, 2.8 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methanol | 3 ml | CO | CH4O
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | (6,7,8,9-Tetrahydro-5H-5-benzocycloheptenyl)acetaldehyde | 0.432 g, yield: 97% | C1=CC=CC2=C1CCCCC2CC=O | C13H16O
